US04783462
4-Chloro-5-[3-(2-n-propyl-4-carbamoylphenoxy)propylamino]-2-i-propyl-3(2H)pyridazinone (Compound No. 42)
A mixture comprising 130 mg of Compound No. 41 i.e. 4 -chloro-5-[3-(2-n-propyl-4-carboxyphenoxy)propylamino]-2-i-propyl-3(2H)pyridazinone, 62 mg of N,N'-carbonyldiimidazole and 20 ml of N,N-dimethylformamide, was stirred at room temperature for 1 hour, and then ammonia gas was bubbled into the mixture for 10 minutes under cooling with ice. The system was closed and left to stand at room temperature for 2 hours. Then, the solvent was distilled off under reduced pressure. The residue was extracted with chloroform, and the chloroform layer was washed sequentially with an aqueous sodium hydroxide solution and a dilute hydrochloric acid aqueous solution, and dried over sodium sulfate. Then, chloroform was distilled off. The residue was treated with ethyl ether to obtain 20 mg of the above identified compound as a white powder.

reactant | 4 -chloro-5-[3-(2-n-propyl-4-carboxyphenoxy)propylamino]-2-i-propyl-3(2H)pyridazinone | ClC=1C(N(N=CC1NCCCOC1=C(C=C(C=C1)C(=O)O)CCC)C(C)C)=O | C20H26ClN3O4
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-5-[3-(2-n-propyl-4-carbamoylphenoxy)propylamino]-2-i-propyl-3(2H)pyridazinone | ClC=1C(N(N=CC1NCCCOC1=C(C=C(C=C1)C(N)=O)CCC)C(C)C)=O | C20H27ClN4O3
